US08247421B2
Step 4: 5-Trifluoromethyl-1-tosyl-1H-pyrrolo [2,3-b]pyridine
To a stirred solution of sodium hydride (6.2 g, 156 mmol, 60% dispersion), tosyl chloride (27 g, 141.8 mmol), in anhydrous THF (200 mL) under a nitrogen atmosphere was added a solution of 5-trifluoromethyl-lH-pyrrolo[2,3-b]pyridine (26.38 g, 141.8 mmol) in THF (150 mL) dropwise at a rate which maintained the internal temperature of the reaction below 40° C. The reaction mixture was stirred overnight at room temperature and analysis by LCMS showed no starting material remained after this time. The reaction mixture was concentrated to remove most of THF and diluted with DCM and water. The organic layer was separated and the aqueous layer further extracted with DCM. The organic layers are combined and washed with brine, dried over magnesium sulphate and concentrated to a volume which was appropriate to load onto the top of a silica plug (300 mL) pre-wet with DCM, and the silica was washed with 2.5 L DCM. The filtrate was concentrated to give the product as a slightly brown solid (44.1 g, 92% yield).

reactant | sodium hydride | 156 mmol, 6.2 g | [H-].[Na+]
reactant | tosyl chloride | 141.8 mmol, 27 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 5-trifluoromethyl-lH-pyrrolo[2,3-b]pyridine | 141.8 mmol, 26.38 g | FC(C=1C=C2C(=NC1)NC=C2)(F)F | C8H5F3N2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-Trifluoromethyl-1-tosyl-1H-pyrrolo [2,3-b]pyridine | 44.1 g, 92% yield | FC(C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)(F)F | C15H11F3N2O2S
